US07576094B2
To a solution of 2,5-dimethyl-3-(3-methylbutyl)hydroquinone (208 mg) and BF3-ether (0.25 mL) in dioxane (3 mL) was added 1-vinyl-cyclobutanol (98 mg) in dioxane (3 mL) over 50 min at 110° C. degree under nitrogen. The reaction was refluxed for one additional hour. The solution was diluted with ethyl acetate and washed with water and brine, and dried. After evaporation the residue waschromatographed (silica gel, hexane-ethyl acetate 0% to 3%) gave 5,8-dimethyl-7-(3-methylbutyl)-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol (130 mg).

reactant | 2,5-dimethyl-3-(3-methylbutyl)hydroquinone | 208 mg | CC1=C(O)C=C(C(=C1CCC(C)C)O)C | C13H20O2
reactant | 1-vinyl-cyclobutanol | 98 mg | C(=C)C1(CCC1)O | C6H10O
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,8-dimethyl-7-(3-methylbutyl)-3,4-dihydrospiro[chromene-2,1′-cyclobutan]-6-ol | 130 mg | CC1=C2CCC3(CCC3)OC2=C(C(=C1O)CCC(C)C)C | C19H28O2
